US08258140B2
DIPEA (2.348 mL, 13.48 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (obtained as described in Monatsh. Chem. 1972, 103, 1591) (2 g, 8.99 mmol) and tert-butyl 4-[2-[4-(piperidin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate (3.68 g, 9.44 mmol) in DMF (30 mL). The resulting solution was stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature and the solvents evaporated to dryness. The resulting solid was triturated with water then collected by is filtration, washed with ether and dried to afford tert-butyl 4-[2-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]ethyl]piperazine-1-carboxylate (5.02 g, 97%) as a solid.

reactant | DIPEA | 13.48 mmol, 2.348 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 8.99 mmol, 2 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | tert-butyl 4-[2-[4-(piperidin-4-yl)phenoxy]ethyl]piperazine-1-carboxylate | 9.44 mmol, 3.68 g | N1CCC(CC1)C1=CC=C(OCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C22H35N3O3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[2-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]ethyl]piperazine-1-carboxylate | 5.02 g, 97% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C28H36F3N7O3
